US06482986B1
1-[4-(3,3,5,5-Tetramethylcyclohexyl)phenyl]ethanone, Compound V.1
38.1 ml of chlorotrimethylsilane are added over 45 minutes to a solution of 40.45 g of 1-[4-(hydroxy-3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone (compound V′.1) and 56.21 g of sodium iodide in 230 ml of anhydrous acetonitrile. During the addition, the temperature is maintained between 35° C. and 40° C. After stirring for 2 hours, 40 ml of acetonitrile and 39.4 ml of acetic acid are added. Next, 29.4 g of finely powdered zinc are added portionwise with stirring and at room temperature. The mixture is refluxed with vigorous stirring for 4 hours. After cooling to room temperature, the reaction medium is filtered through Celite and then washed with saturated aqueous sodium bicarbonate solution. The organic phase is concentrated under reduced pressure and the oil obtained is purified by chromatography on a column of silica gel, eluting with a 95/5 (v/v) cyclohexane/ethyl acetate mixture; yield=68%; m.p.=54° C.

reactant | chlorotrimethylsilane | 38.1 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 1-[4-(hydroxy-3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone | 40.45 g | OC1(CC(CC(C1)(C)C)(C)C)C1=CC=C(C=C1)C(C)=O | C18H26O2
reactant | sodium iodide | 56.21 g | [I-].[Na+]
reactant | acetic acid | 39.4 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 230 ml | C(C)#N | C2H3N
catalyst | zinc | [Zn] | Zn
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-[4-(3,3,5,5-Tetramethylcyclohexyl)phenyl]ethanone | yield=68% | CC1(CC(CC(C1)(C)C)C1=CC=C(C=C1)C(C)=O)C | C18H26O
